US05445946
1-Cyclohexyl-1,2-dihydro-4-methyl-2-quinolone is prepared using N-cyclohexylaniline as starting material. The quinolone (0.482 g, 2 mmol) is transformed to the 2-chloro-1-cyclohexylquinolinium chloride with a procedure similar to Example 3, and is then reacted with 3-methyl-2-methylthiobenzothiazolium tosylate (0.74 g, 2 mmol) and triethylamine (0.28 mL, 2 mmol) to yield the product.

reactant | N-cyclohexylaniline | C1(CCCCC1)NC1=CC=CC=C1 | C12H17N
reactant | quinolone | 2 mmol, 0.482 g | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
reactant | 2-chloro-1-cyclohexylquinolinium chloride | [Cl-].ClC1=[N+](C2=CC=CC=C2C=C1)C1CCCCC1
reactant | 3-methyl-2-methylthiobenzothiazolium tosylate | 2 mmol, 0.74 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.C[N+]1=C(SC2=C1C=CC=C2)SC
reactant | triethylamine | 2 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
product | 1-Cyclohexyl-1,2-dihydro-4-methyl-2-quinolone | C1(CCCCC1)N1C(C=C(C2=CC=CC=C12)C)=O | C16H19NO
